US07863271B2
Following general procedure GP-C1, a mixture of 2-((3S,5S)-3,5-dimethylmorpholino)benzoxazole-4-carboxylic acid and 8-methyl-8-azabicyclo[3.2.1]octan-3-amine dihydrochloride were coupled to provide N-(8-methyl-8-azabicyclo[3.2.1]octan-3-yl)-2-(3 S,5S)-3,5-dimethylmorpholino)benzoxazole-4-carboxamide, which was converted to the hydrochloride salt following general procedure GP-D1. 1H NMR and MS consistent.

reactant | 2-((3S,5S)-3,5-dimethylmorpholino)benzoxazole-4-carboxylic acid | C[C@H]1COC[C@@H](N1C=1OC=2C(N1)=C(C=CC2)C(=O)O)C | C14H16N2O4
reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-amine dihydrochloride | Cl.Cl.CN1C2CC(CC1CC2)N
product | benzoxazole-4-carboxamide | O1C=NC=2C1=CC=CC2C(=O)N | C8H6N2O2
